US07528173B2
A solution of 2-(4-(benzyloxycarbonylamino)phenyl)ethanoic acid ethyl ester (6.5 g, 23.3 mmol), paraformaldehyde (1.05 g), potassium carbonate (5.15 g, 37.3 mmol) and tetrabutylammonium iodide (0.172 g, 0.5 mmol) in 230 mL of toluene was heated at 100° C. for 4 hours with stirring. The reaction mixture was filtered and the filtrate was washed with water, 1 M sodium hydrogen sulfate, and brine. The organic layer was evaporated in vacuo to afford 5.2 g of crude product. The product was purified by flash chromatography through silica gel (5/1 hexanes/ethyl acetate) to afford 2-(4-(benzyloxycarbonylamino)phenyl)prop-2-enoic acid ethyl ester 3.04 g (45%) as a white solid.

reactant | 2-(4-(benzyloxycarbonylamino)phenyl)ethanoic acid ethyl ester | 23.3 mmol, 6.5 g | C(C)OC(CC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C18H19NO4
reactant | paraformaldehyde | 1.05 g | C=O | CH2O
reactant | potassium carbonate | 37.3 mmol, 5.15 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 0.5 mmol, 0.172 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 230 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(benzyloxycarbonylamino)phenyl)prop-2-enoic acid ethyl ester | 3.04 g, 45% | C(C)OC(C(=C)C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H19NO4
